US07700641B2
Synthesis of 5,6-difluoro-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 3-(4,5-difluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 71% yield: mp 48-50° C.; 1H NMR (300 MHz, CDCl3) δ 7.33 (td, 1H), 7.18-7.12 (m, 2H), 6.93 (d, 1H), 6.77 (dd, 1H), 6.51 (dd, 1H), 4.96 (d, 1H), 4.71 (d, 1H), 3.87-3.64 (m, 2H), 1.82-1.65 (m, 2H), 1.46-1.28 (m, 4H), 0.92 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 176.6, 156.8, 152.9, 149.8, 144.2, 142.6, 131.8, 129.4, 124.1, 123.5, 111.7, 109.0, 100.2, 80.9, 57.9, 40.6, 29.1, 27.2, 22.5, 14.1; MS (ES+) m/z 344 (M+1).

reactant | 3-(4,5-difluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | FC1=CC(=C(C=C1F)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O | C20H21F2NO3
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 5,6-difluoro-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 71% yield | FC=1C(=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2)F | C20H19F2NO2
